US03992535
3-Oxo-naphth[2,1-d]isothiazoline-2-acetic acid ethyl ester -1,1-dioxide was prepared analogous to Example 1a from the sodium salt of 3-oxo-naphth[2,1-d]isothiazoline-1,1-dioxide and chloro-acetic acid ethyl ester. Yield: 72% of theory; m.p. 149- 150.5° C (from ethanol).

reactant | sodium | [Na] | Na
reactant | 3-oxo-naphth[2,1-d]isothiazoline-1,1-dioxide | O=C1NS(C2=C1C=CC1=CC=CC=C12)(=O)=O | C11H7NO3S
reactant | chloro-acetic acid ethyl ester | C(C)OC(CCl)=O | C4H7ClO2
solvent | ethanol | C(C)O | C2H6O
product | 3-Oxo-naphth[2,1-d]isothiazoline-2-acetic acid ethyl ester -1,1-dioxide | Yield: 72% | C(C)OC(CN1S(C2=C(C1=O)C=CC1=CC=CC=C12)(=O)=O)=O | C15H13NO5S
